US08420829B2
Preparation of 4-[(2,4-Dinitro-phenyl)-methyl-carbamoyl]-butyric acid methyl ester:
To a stirred suspension of 1-methylamino-2,4-dinitrobenzene (1.00 g, 5.07 mmol) in xylenes (10 mL) was added methyl-5-chloro-5-oxo-valerate (3.50 mL, 25.28 mmol, 5.0 equiv.) at 20° C. The reaction mixture was then heated to reflux, approximately 138° C. Reaction progress was monitored periodically by HPLC Method A. The reaction was complete after stirring for approximately 24 hours at 138° C. The reaction mixture was cooled to 0° C. and hexanes was added (10 mL) to crystallize the product. The resultant slurry was stirred for approximately 1 hour at −10° C. to 0° C. and then filtered. The wet cake was dried at 60° C. under vacuum/N2 sweep overnight to give 1.30 g (79% yield) as an off-while solid.

reactant | 1-methylamino-2,4-dinitrobenzene | 5.07 mmol, 1.00 g | CNC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C7H7N3O4
reactant | methyl-5-chloro-5-oxo-valerate | 25.28 mmol, 3.50 mL, 5.0 equiv. | COC(CCCC(=O)Cl)=O | C6H9ClO3
product | 4-[(2,4-Dinitro-phenyl)-methyl-carbamoyl]-butyric acid methyl ester | 79% yield | COC(CCCC(N(C)C1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O)=O | C13H15N3O7
